US04496572
A solution of 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid (0.69 g) in methanol (250 ml) was treated with an excess of an ethereal solution of diazomethane. The solution was allowed to stand for 11/2 hours at 0° and then the excess of diazomethane was decomposed by dropwise addition of acetic acid until no further effervescence was apparent. The solution was evaporated and the residue was dissolved in ether. The solution was washed with sodium bicarbonate, dried (Na2SO4) and evaporated to give a quantitative yield of 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid methyl ester, m.p. 96°-98° (from ethyl acetate/petrol).

reactant | 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid | 0.69 g | OCC=1OC2=C(C1C)C=C(C=C2)C(=O)O | C11H10O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 250 ml | CO | CH4O
product | 2-hydroxymethyl-3-methylbenzofuran-5-carboxylic acid methyl ester | quantitative yield | COC(=O)C=1C=CC2=C(C(=C(O2)CO)C)C1 | C12H12O4
